US04851526
N,N-Diethyl-2-[[4-(1H-imidazol-1-yl)phenyl]methyl]-cyclopropanemethanamine
In a manner similar to Example 28, react [2-[(diethylamino)methyl]cyclopropyl][4-(1H-imidazol-1-yl)phenyl]-methanone with potassium hydroxide and hydrazine in diethylene glycol to obtain the title compound.

reactant | [2-[(diethylamino)methyl]cyclopropyl][4-(1H-imidazol-1-yl)phenyl]-methanone | C(C)N(CC)CC1C(C1)C(=O)C1=CC=C(C=C1)N1C=NC=C1 | C18H23N3O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrazine | NN | H4N2
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | N,N-Diethyl-2-[[4-(1H-imidazol-1-yl)phenyl]methyl]-cyclopropanemethanamine | C(C)N(CC1C(C1)CC1=CC=C(C=C1)N1C=NC=C1)CC | C18H25N3
